US06310095B1
N-2-Cyclohexylethyl-p-tert-butylbenzenesulfonamide
The title compound was prepared according to example 1063B, replacing p-toluenesulfonyl chloride with p-tert-butylbenzenesulfonyl chloride to afford a white crystalline solid. MS (DCI/NH3) m/e 341 (M+NH4)+.

reactant | p-tert-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | NH3 | N | H3N
product | N-2-Cyclohexylethyl-p-tert-butylbenzenesulfonamide | C1C(CCCC1)CCNS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C18H29NO2S
